US09107916B2
B. [4-chloro-2-[(E)-2-(4-fluorophenyl)ethenyl]phenyl]methanol
The title compound was prepared from (2-bromo-4-chlorophenyl)methanol and 4-fluoro-1-vinylbenzene according to the procedure for the preparation of Example 119, part B. 1H NMR (400 MHz, CDCl3): δ 1.72 (1H, t, J=5.6 Hz), 4.77 (2H, d, J=5.2 Hz), 6.98-7.08 (3H, m), 7.22-7.34 (3H, m), 7.47-7.50 (2H, m), 7.60 (1H, d, J=1.6 Hz).

reactant | (2-bromo-4-chlorophenyl)methanol | BrC1=C(C=CC(=C1)Cl)CO | C7H6BrClO
reactant | 4-fluoro-1-vinylbenzene | FC1=CC=C(C=C1)C=C | C8H7F
product | [4-chloro-2-[(E)-2-(4-fluorophenyl)ethenyl]phenyl]methanol | ClC1=CC(=C(C=C1)CO)\C=C\C1=CC=C(C=C1)F | C15H12ClFO
